*
R1 N001 N002 680
R2 N001 N005 320
R3 N006 0 250
R4 N005 0 320
Q1 N002 N004 N006 0 NPN
C1 N007 N006 4.7µ V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM31CR71H475KA12" type="X7R"
C2 N008 N007 0.01µ
C3 0 N008 150µ
R5 N007 0 250
R6 N008 0 250
C4 N004 N003 0.01µ
V1 N001 N003 SINE(5 5 50 0.1 0.166 23 100)
.model NPN NPN
.model PNP PNP
.lib C:\Users\Hulk\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0.5
.backanno
.end
